US08471005B2
6-Fluoro-7-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-quinolin-2-one
Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.080 g, 0.21 mmol) and 7-Amino-6-fluoro-3,4-dihydro-1H-quinolin-2-one were reacted in an analogous manner to Example 908D at 50° C. for 32 h. Upon completion, the product was triturated and washed with acetone. LC/MS: 404.9 (M+H); HPLC: 2.770 minutes, 99% purity. MP: 295° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.91 (s, 1H), 8.65 (s, 1H), 8.34 (d, J=9.9 Hz, 1H), 7.48-7.42 (m, 2H), 7.10-7.05 (m, 2H), 6.94-6.90 (m, 2H), 4.05 (s, 3H), 3.06 (t, 2H), 2.71 (t, 2H).

reactant | Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.21 mmol, 0.080 g | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C13H9F3N4O4S
reactant | 7-Amino-6-fluoro-3,4-dihydro-1H-quinolin-2-one | NC1=C(C=C2CCC(NC2=C1)=O)F | C9H9FN2O
product | 6-Fluoro-7-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-3,4-dihydro-1H-quinolin-2-one | FC=1C=C2CCC(NC2=CC1NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC)=O | C21H17FN6O2
